US07132419B2
Benzo[a]phenazine-11-carboxylic acid methyl ester (IV.2)
The mixture of benzo[a]phenazine-11-carboxylic acid (II.20) and benzo[a]phenazine-8-carboxylic acid (885 mg), prepared as described in Reference Example 1L above, was heated to reflux in a mixture of methanol (40 mL) and acetyl chloride (920 μL) for 90 minutes. The reaction mixture was then cooled slowly to yield the title compound as a single isomer which was collected by filtration (377 mg).

reactant | benzo[a]phenazine-11-carboxylic acid | C1=CC=CC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C17H10N2O2
reactant | benzo[a]phenazine-8-carboxylic acid | 885 mg | C1=CC=CC=2C1=C1N=C3C=CC=C(C3=NC1=CC2)C(=O)O | C17H10N2O2
solvent | methanol | 40 mL | CO | CH4O
solvent | acetyl chloride | 920 μL | C(C)(=O)Cl | C2H3ClO
product | Benzo[a]phenazine-11-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4 | C18H12N2O2
